US05641788
A mixture of 2-amino-4,5,3',4'-tetramethoxy-benzophenone hydrochloride (2.0 g), benzoylacetone (0.917 g) and ethanol (35 ml) was stirred under reflux for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was poured into a saturated aqueous solution of sodium bicarbonate, and the mixture was extracted with chloroform. The chloroform layer was washed with water, dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform-ethyl acetate (10:1, v/v) gave 3-benzoyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-methylquinoline (1.75 g, 70%). This compound was recrystallized from ethanol to give colorless prisms, mp. 151°-152° C.

reactant | 2-amino-4,5,3',4'-tetramethoxy-benzophenone hydrochloride | 2.0 g | Cl.NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC
reactant | benzoylacetone | 0.917 g | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 3-benzoyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-methylquinoline | 1.75 g, 70% | C(C1=CC=CC=C1)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)C | C27H25NO5
